R1 (net185 net163) R=0.6E2
R2 ( net226 net174)  R=1.0E2
T3 ( net174 net110 vdd! vdd!)  pfet  L=4.89E-6 W=3.77E-6
T4 ( net162 net110 vdd! vdd!)  pfet  L=4.89E-6 W=3.77E-6
T5 ( 0 net174 net110 vdd!)  pfet  L=4.89E-6 W=3.77E-6
R6 (net118 net43) R=9.3E0
R7 (net204 net47) R=3.4E6
C8 (net95 net37) C=5.5E-6
C9 (0 net260) C=8.4E-10
R10 (0 net221) R=5.0E6
T11 (net249 net142 net142 0) pfet L=9.87E-6 W=9.85E-6
R12 ( net161 net126)  R=2.0E4
T13 ( net126 net126 net201 0)  nfet  L=8.30E-6 W=0.66E-6
T14 ( net201 net50 0 0)  nfet  L=8.30E-6 W=0.66E-6
T15 ( net50 net50 0 0)  nfet  L=8.30E-6 W=0.66E-6
T16 ( vdd! net126 net50 0)  nfet  L=8.30E-6 W=0.66E-6
C17 (net33 net16) C=2.7E-11
T18 (net12 net86 net86 0) nfet L=8.97E-6 W=9.49E-6
T19 (net91 net91 net91 0) pfet L=9.65E-6 W=1.95E-6
C20 (net25 net187) C=7.1E-8
T21 ( net173 net173 vdd! vdd!)  pfet  L=2.50E-6 W=1.51E-6
T22 ( net119 net173 vdd! vdd!)  pfet  L=2.50E-6 W=1.51E-6
R23 ( net119 net102)  R=1.8E2
C24 (net258 net246) C=5.5E-9
C25 (net225 net167) C=7.2E-14
R26 ( net71 net148)  R=5.3E0
T27 ( net148 net148 net190 0)  nfet  L=4.50E-6 W=3.73E-6
T28 ( net190 net108 0 0)  nfet  L=4.50E-6 W=3.73E-6
T29 ( net108 net108 0 0)  nfet  L=4.50E-6 W=3.73E-6
T30 ( net170 net148 net108 0)  nfet  L=4.50E-6 W=3.73E-6
T31 (net246 net219 net219 0) nfet L=4.90E-6 W=7.37E-6
T32 ( net139 net139 vdd! vdd!)  pfet  L=5.18E-6 W=9.49E-6
T33 ( net8 net139 vdd! vdd!)  pfet  L=5.18E-6 W=9.49E-6
R34 ( net8 net159)  R=0.2E5
T35 (net129 net289 net289 0) nfet L=3.37E-6 W=2.27E-6
R36 ( net292 net141)  R=0.8E0
T37 ( net141 net141 vdd! vdd!)  pfet  L=3.53E-6 W=7.13E-6
T38 ( net177 net141 vdd! vdd!)  pfet  L=3.53E-6 W=7.13E-6
T39 (net44 net57 net57 0) nfet L=2.45E-6 W=7.46E-6
T40 (net19 net198 net198 0) pfet L=2.79E-6 W=7.47E-6
T41 ( net212 net212 vdd! vdd!)  pfet  L=3.06E-6 W=8.11E-6
T42 ( net257 net212 vdd! vdd!)  pfet  L=3.06E-6 W=8.11E-6
R43 ( net257 net129)  R=0.4E1
T44 (net21 net191 net191 0) nfet L=3.64E-6 W=7.14E-6
R45 ( net143 net7)  R=6.5E2
T46 ( net7 net161 0 0)  nfet  L=2.62E-6 W=7.27E-6
T47 ( net51 net161 0 0)  nfet  L=2.62E-6 W=7.27E-6
T48 ( vdd! net7 net161 0)  nfet  L=2.62E-6 W=7.27E-6
T49 (net245 net99 net99 0) nfet L=3.09E-6 W=2.54E-6
R50 ( net2 net196)  R=3.3E1
T51 ( net196 net229 0 0)  nfet  L=8.62E-6 W=0.61E-6
T52 ( net137 net229 0 0)  nfet  L=8.62E-6 W=0.61E-6
T53 ( vdd! net196 net229 0)  nfet  L=8.62E-6 W=0.61E-6
T54 (net194 net202 net202 0) pfet L=8.28E-6 W=7.30E-6
T55 (net193 net31 net31 0) pfet L=9.67E-6 W=1.13E-6
T56 (0 net118 net118 0) pfet L=5.22E-6 W=7.07E-6
R57 ( net106 net121)  R=7.3E6
T58 ( net121 net250 0 0)  nfet  L=7.58E-6 W=8.81E-6
T59 ( net191 net250 0 0)  nfet  L=7.58E-6 W=8.81E-6
T60 ( vdd! net121 net250 0)  nfet  L=7.58E-6 W=8.81E-6
C61 (net65 net54) C=7.0E-13
R62 ( net128 net305)  R=2.1E0
T63 ( net305 net305 vdd! vdd!)  pfet  L=5.15E-6 W=6.80E-6
T64 ( net256 net305 vdd! vdd!)  pfet  L=5.15E-6 W=6.80E-6
T65 (net255 net241 net241 0) nfet L=3.21E-6 W=9.67E-6
T66 ( net177 net177 vdd! vdd!)  pfet  L=9.16E-6 W=4.77E-6
T67 ( net75 net177 vdd! vdd!)  pfet  L=9.16E-6 W=4.77E-6
R68 ( net75 net222)  R=5.7E4
R69 (net81 net277) R=8.0E2
R70 ( net15 net258)  R=3.9E5
T71 ( net258 net16 0 0)  nfet  L=5.32E-6 W=9.90E-6
T72 ( net164 net16 0 0)  nfet  L=5.32E-6 W=9.90E-6
T73 ( net239 net258 net164 0)  nfet  L=5.32E-6 W=9.90E-6
T74 (net185 net92 net92 0) pfet L=5.31E-6 W=5.48E-6
R75 ( net295 net204)  R=5.8E2
T76 ( net204 net283 0 0)  nfet  L=2.16E-6 W=2.69E-6
T77 ( net297 net283 0 0)  nfet  L=2.16E-6 W=2.69E-6
T78 ( net237 net204 net297 0)  nfet  L=2.16E-6 W=2.69E-6
R79 (net290 net115) R=2.5E6
R80 ( net18 net13)  R=7.4E3
T81 ( net13 net281 0 0)  nfet  L=8.16E-6 W=7.34E-6
T82 ( net68 net281 0 0)  nfet  L=8.16E-6 W=7.34E-6
T83 ( vdd! net13 net281 0)  nfet  L=8.16E-6 W=7.34E-6
C84 (net43 net170) C=10.0E-11
R85 ( net303 net300)  R=5.4E6
T86 ( net300 net132 0 0)  nfet  L=6.06E-6 W=8.85E-6
T87 ( net9 net132 0 0)  nfet  L=6.06E-6 W=8.85E-6
T88 ( vdd! net300 net132 0)  nfet  L=6.06E-6 W=8.85E-6
R89 (net252 net116) R=0.7E0
R90 ( net6 net160)  R=8.5E4
T91 ( net160 net189 0 0)  nfet  L=8.07E-6 W=4.09E-6
T92 ( net203 net189 0 0)  nfet  L=8.07E-6 W=4.09E-6
T93 ( vdd! net160 net189 0)  nfet  L=8.07E-6 W=4.09E-6
R94 (net48 net158) R=8.8E5
T95 (net58 net213 net213 0) pfet L=4.22E-6 W=7.69E-6
T96 ( net26 net26 vdd! vdd!)  pfet  L=1.88E-6 W=9.71E-6
T97 ( net227 net26 vdd! vdd!)  pfet  L=1.88E-6 W=9.71E-6
R98 ( net227 net303)  R=0.6E2
T99 (net288 net111 net111 0) nfet L=4.10E-6 W=3.34E-6
T100 ( net32 net32 0 0)  nfet  L=9.85E-6 W=7.77E-6
T101 ( net115 net32 0 0)  nfet  L=9.85E-6 W=7.77E-6
R102 ( net115 net226)  R=0.5E5
C103 (net47 net55) C=1.7E-14
R104 ( net74 net183)  R=9.6E2
T105 ( net183 net61 0 0)  nfet  L=4.42E-6 W=0.58E-6
T106 ( net138 net61 0 0)  nfet  L=4.42E-6 W=0.58E-6
T107 ( net127 net183 net138 0)  nfet  L=4.42E-6 W=0.58E-6
R108 (net249 net116) R=0.9E1
R109 ( net22 net286)  R=8.3E0
T110 ( net286 net38 vdd! vdd!)  pfet  L=3.42E-6 W=6.04E-6
T111 ( net291 net38 vdd! vdd!)  pfet  L=3.42E-6 W=6.04E-6
T112 ( 0 net286 net38 vdd!)  pfet  L=3.42E-6 W=6.04E-6
T113 (net40 net92 net92 0) pfet L=8.89E-6 W=9.79E-6
T114 (net52 net215 net215 0) pfet L=6.57E-6 W=1.96E-6
R115 ( 0 net178)  R=1.7E1
T116 ( net178 net145 0 0)  nfet  L=5.59E-6 W=1.74E-6
T117 ( net12 net145 0 0)  nfet  L=5.59E-6 W=1.74E-6
T118 ( 0 net178 net12 0)  nfet  L=5.59E-6 W=1.74E-6
T119 (net268 net42 net42 0) pfet L=5.08E-6 W=5.23E-6
R120 ( net51 net47)  R=7.7E2
T121 ( net47 net49 0 0)  nfet  L=3.34E-6 W=0.15E-6
T122 ( net181 net49 0 0)  nfet  L=3.34E-6 W=0.15E-6
T123 ( vdd! net47 net49 0)  nfet  L=3.34E-6 W=0.15E-6
R124 (net57 vdd!) R=1.6E0
C125 (net211 net246) C=3.7E-14
T126 (net254 0 0 0) pfet L=1.64E-6 W=8.88E-6
T127 (net226 net111 net111 0) pfet L=7.72E-6 W=8.37E-6
R128 ( net101 net114)  R=2.1E3
T129 ( net114 net114 0 0)  nfet  L=3.16E-6 W=3.28E-6
T130 ( net249 net114 0 0)  nfet  L=3.16E-6 W=3.28E-6
T131 (net66 net277 net277 0) pfet L=0.72E-6 W=4.05E-6
R132 (net98 0) R=6.2E0
C133 (net20 net285) C=9.3E-6
C134 (net216 net182) C=7.8E-12
R135 (net129 net195) R=1.8E2
R136 (net53 net58) R=4.7E5
T137 (net72 net73 net73 0) pfet L=8.77E-6 W=4.54E-6
R138 ( net236 net102)  R=1.4E2
T139 ( net102 net176 vdd! vdd!)  pfet  L=8.68E-6 W=6.36E-6
T140 ( net292 net176 vdd! vdd!)  pfet  L=8.68E-6 W=6.36E-6
T141 ( 0 net102 net176 vdd!)  pfet  L=8.68E-6 W=6.36E-6
C142 (net137 vdd!) C=3.0E-5
T143 (net128 net20 net20 0) pfet L=4.96E-6 W=4.52E-6
R144 ( net293 net152)  R=0.7E4
T145 ( net152 net152 vdd! vdd!)  pfet  L=9.87E-6 W=7.55E-6
T146 ( net41 net152 vdd! vdd!)  pfet  L=9.87E-6 W=7.55E-6
T147 (net128 net221 net221 0) pfet L=6.48E-6 W=8.15E-6
R148 ( net147 net163)  R=1.5E6
T149 ( net163 net163 vdd! vdd!)  pfet  L=9.83E-6 W=8.86E-6
T150 ( net106 net163 vdd! vdd!)  pfet  L=9.83E-6 W=8.86E-6
T151 (net157 net124 net124 0) pfet L=0.22E-6 W=5.81E-6
R152 (net150 net240) R=3.1E6
R153 ( net233 net151)  R=2.5E3
T154 ( net151 net268 vdd! vdd!)  pfet  L=6.47E-6 W=7.30E-6
T155 ( net168 net268 vdd! vdd!)  pfet  L=6.47E-6 W=7.30E-6
T156 ( net219 net151 net168 vdd!)  pfet  L=6.47E-6 W=7.30E-6
T157 (net35 net81 net81 0) pfet L=7.00E-6 W=8.49E-6
R158 ( net259 net246)  R=2.3E3
T159 ( net246 net211 0 0)  nfet  L=6.30E-6 W=2.15E-6
T160 ( net31 net211 0 0)  nfet  L=6.30E-6 W=2.15E-6
T161 ( net159 net246 net31 0)  nfet  L=6.30E-6 W=2.15E-6
T162 (net29 net226 net226 0) nfet L=2.89E-6 W=1.95E-6
R163 ( net92 net116)  R=7.7E1
T164 ( net116 net282 0 0)  nfet  L=9.92E-6 W=3.22E-6
T165 ( net99 net282 0 0)  nfet  L=9.92E-6 W=3.22E-6
T166 ( vdd! net116 net282 0)  nfet  L=9.92E-6 W=3.22E-6
R167 (net197 net137) R=2.2E2
T168 ( net55 net55 vdd! vdd!)  pfet  L=0.41E-6 W=4.95E-6
T169 ( net94 net55 vdd! vdd!)  pfet  L=0.41E-6 W=4.95E-6
R170 ( net94 net43)  R=0.7E4
T171 (net125 net90 net90 0) nfet L=5.37E-6 W=5.44E-6
R172 (net131 net292) R=9.8E2
R173 ( net85 net243)  R=7.9E4
T174 ( net243 net243 net109 0)  nfet  L=2.24E-6 W=3.60E-6
T175 ( net109 net74 0 0)  nfet  L=2.24E-6 W=3.60E-6
T176 ( net74 net74 0 0)  nfet  L=2.24E-6 W=3.60E-6
T177 ( net294 net243 net74 0)  nfet  L=2.24E-6 W=3.60E-6
T178 (net15 net32 net32 0) nfet L=6.71E-6 W=2.86E-6
R179 ( net60 net133)  R=8.0E4
T180 ( net133 net133 vdd! vdd!)  pfet  L=7.13E-6 W=4.98E-6
T181 ( 0 net133 vdd! vdd!)  pfet  L=7.13E-6 W=4.98E-6
R182 (net106 net9) R=1.0E1
T183 (net28 net101 net101 0) nfet L=7.74E-6 W=5.72E-6
T184 (net273 net248 net248 0) pfet L=3.20E-6 W=9.78E-6
T185 (net271 net87 net87 0) nfet L=0.71E-6 W=5.59E-6
T186 ( net235 net235 0 0)  nfet  L=5.52E-6 W=7.54E-6
T187 ( net292 net235 0 0)  nfet  L=5.52E-6 W=7.54E-6
R188 ( net292 net39)  R=5.0E6
C189 (net57 net191) C=8.9E-12
R190 (net155 net228) R=1.9E1
T191 ( net76 net76 0 0)  nfet  L=5.18E-6 W=7.28E-6
T192 ( net2 net76 0 0)  nfet  L=5.18E-6 W=7.28E-6
R193 ( net2 net175)  R=3.0E1
T194 (net40 net131 net131 0) pfet L=1.44E-6 W=8.70E-6
C195 (net157 net28) C=5.0E-13
R196 ( net191 net63)  R=7.7E2
T197 ( net63 net63 vdd! vdd!)  pfet  L=5.37E-6 W=4.69E-6
T198 ( 0 net63 vdd! vdd!)  pfet  L=5.37E-6 W=4.69E-6
T199 (net198 net205 net205 0) pfet L=3.94E-6 W=7.82E-6
R200 ( net70 net140)  R=4.4E1
T201 ( net140 net193 0 0)  nfet  L=5.71E-6 W=4.59E-6
T202 ( net162 net193 0 0)  nfet  L=5.71E-6 W=4.59E-6
T203 ( net82 net140 net162 0)  nfet  L=5.71E-6 W=4.59E-6
T204 (net226 net264 net264 0) nfet L=9.58E-6 W=1.07E-6
R205 ( net71 net19)  R=7.4E5
T206 ( net19 net19 0 0)  nfet  L=6.20E-6 W=8.16E-6
T207 ( vdd! net19 0 0)  nfet  L=6.20E-6 W=8.16E-6
C208 (net34 net259) C=8.4E-9
T209 ( net287 net287 vdd! vdd!)  pfet  L=4.76E-6 W=2.35E-6
T210 ( net95 net287 vdd! vdd!)  pfet  L=4.76E-6 W=2.35E-6
R211 ( net95 net69)  R=3.6E3
C212 (net264 net237) C=9.0E-13
R213 (net182 net272) R=2.3E1
R214 ( net104 net219)  R=4.0E0
T215 ( net219 net219 net97 vdd!)  pfet  L=7.22E-6 W=0.21E-6
T216 ( net97 net34 vdd! vdd!)  pfet  L=7.22E-6 W=0.21E-6
T217 ( net34 net34 vdd! vdd!)  pfet  L=7.22E-6 W=0.21E-6
T218 ( net6 net219 net34 vdd!)  pfet  L=7.22E-6 W=0.21E-6
T219 (net244 net203 net203 0) pfet L=9.62E-6 W=3.21E-6
C220 (net23 net9) C=3.1E-8
R221 ( net3 net90)  R=0.8E3
T222 ( net90 net171 vdd! vdd!)  pfet  L=8.34E-6 W=1.43E-6
T223 ( 0 net171 vdd! vdd!)  pfet  L=8.34E-6 W=1.43E-6
T224 ( 0 net90 net171 vdd!)  pfet  L=8.34E-6 W=1.43E-6
R225 (net241 net267) R=2.6E2
R226 (net29 net111) R=2.5E1
R227 ( net303 net153)  R=4.4E2
T228 ( net153 net153 net235 0)  nfet  L=2.93E-6 W=8.91E-6
T229 ( net235 net130 0 0)  nfet  L=2.93E-6 W=8.91E-6
T230 ( net130 net130 0 0)  nfet  L=2.93E-6 W=8.91E-6
T231 ( net239 net153 net130 0)  nfet  L=2.93E-6 W=8.91E-6
R232 (net155 net231) R=8.1E0
T233 (net76 net192 net192 0) nfet L=0.75E-6 W=0.73E-6
T234 ( net83 net83 vdd! vdd!)  pfet  L=3.14E-6 W=7.99E-6
T235 ( net294 net83 vdd! vdd!)  pfet  L=3.14E-6 W=7.99E-6
R236 ( net294 net36)  R=3.6E5
R237 (vdd! net79) R=6.8E2
T238 (net113 net237 net237 0) nfet L=8.74E-6 W=9.31E-6
C239 (net59 net170) C=2.3E-10
C240 (net263 net209) C=6.7E-10
R241 ( net9 net22)  R=6.3E2
T242 ( net22 net55 vdd! vdd!)  pfet  L=4.03E-6 W=5.62E-6
T243 ( net239 net55 vdd! vdd!)  pfet  L=4.03E-6 W=5.62E-6
T244 ( 0 net22 net55 vdd!)  pfet  L=4.03E-6 W=5.62E-6
C245 (vdd! net266) C=6.9E-5
T246 (net111 net89 net89 0) pfet L=5.71E-6 W=0.36E-6
R247 ( 0 net136)  R=2.2E4
T248 ( net136 net256 vdd! vdd!)  pfet  L=2.44E-6 W=3.66E-6
T249 ( net87 net256 vdd! vdd!)  pfet  L=2.44E-6 W=3.66E-6
T250 ( 0 net136 net256 vdd!)  pfet  L=2.44E-6 W=3.66E-6
R251 (net113 net18) R=9.0E2

